US06875784B2
N-({(5S)-3-[4-(6-acetyl-3,6-diazabicyclo[3.1.0]hex-3-yl)-3-fluorophenyl]-2-oxo-1,3-oxazolidin-5-yl]methyl)acetamide
Acetic anhydride (3.5 μL, 0.05 mmol) was added to a cooled (0° C.) solution of N-({(5S)-3-[4-(3,6-diazabicyclo[3.1.0]hex-3-yl)-3-fluorophenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide (12 mg, 0.036 mmol) in triethylamine (10 μL, 0.072 mmol) and dichloromethane (0.7 mL). After 1 hour, the solution was diluted with dichloromethane, and washed with dilute NaHCO3, brine, and dried (MgSO4), filtered and concentrated. Purification by pTLC (4% MeOH—CH2Cl2) provided the title compound.

reactant | Acetic anhydride | 0.05 mmol, 3.5 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-({(5S)-3-[4-(3,6-diazabicyclo[3.1.0]hex-3-yl)-3-fluorophenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | 0.036 mmol, 12 mg | C12CN(CC2N1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C16H19FN4O3
reactant | triethylamine | 0.072 mmol, 10 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.7 mL | ClCCl | CH2Cl2
product | N-({(5S)-3-[4-(6-acetyl-3,6-diazabicyclo[3.1.0]hex-3-yl)-3-fluorophenyl]-2-oxo-1,3-oxazolidin-5-yl]methyl)acetamide | C(C)(=O)N1C2CN(CC12)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C18H21FN4O4
